US05047545
To 100 ml of tetrahydrofuran, there was added 13 g of potassium t-butoxide. A solution of 26 g of 4-(4-pyridyl)pimelic acid methyl ester in 50 ml of tetrahydrofuran was added at 20° to 40° C. and the mixture was stirred for 2 hours. After the reaction was completed, the mixture was treated with saturated aqueous solution of ammonium chloride and then extracted with ether. The ether solution was washed with water and dried. Ether was distilled off and the residue was recrystallized from ether. There was obtained 9.6 g of 2-methoxycarbonyl-4-(4-pyridyl)cyclohexanone: m.p. 82°-83° C.

reactant | potassium t-butoxide | 13 g | CC(C)([O-])C.[K+]
reactant | 4-(4-pyridyl)pimelic acid methyl ester | 26 g | COC(CCC(CCC(=O)O)C1=CC=NC=C1)=O | C13H17NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-methoxycarbonyl-4-(4-pyridyl)cyclohexanone | 9.6 g | COC(=O)C1C(CCC(C1)C1=CC=NC=C1)=O | C13H15NO3
